US08293768B2
Synthesis of ethyl 4-methyl-2-(2-oxo-3-phenylimidazolidin-1-yl)thiazole-5-carboxylate
To a degassed solution of ethyl 4-methyl-2-(2-oxoimidazolidin-1-yl)thiazole-5-carboxylate (1.28 g, 5.00 mmol), iodobenzene (0.70 mL, 6.15 mmol), potassium carbonate (0.83 g, 6.00 mmol) and rac-trans-N,N′-dimethylcyclohexane-1,2-diamine (0.08 mL, 0.50 mmol) in dioxane (50 mL) was added copper(I) iodide (0.10 g, 0.50 mmol). The reaction mixture was heated to reflux for 16 hours. The solvent was removed in vacuo, and the residue was suspended in water and filtered. The solid was collected and washed with water (200 mL) and t-butyl methyl ether (100 mL) to afford the title compound in 89% yield (1.49 g): 1H NMR (300 MHz, DMSO-d6) δ 7.69-7.08 (m, 5H), 4.28-4.13 (m, 6H), 2.62 (s, 3H), 1.30 (t, J=6.9 Hz, 3H); MS (ES+) m/z 332.4 (M+1).

reactant | ethyl 4-methyl-2-(2-oxoimidazolidin-1-yl)thiazole-5-carboxylate | 5.00 mmol, 1.28 g | CC=1N=C(SC1C(=O)OCC)N1C(NCC1)=O | C10H13N3O3S
reactant | iodobenzene | 6.15 mmol, 0.70 mL | IC1=CC=CC=C1 | C6H5I
reactant | potassium carbonate | 6.00 mmol, 0.83 g | C([O-])([O-])=O.[K+].[K+]
reactant | rac-trans-N,N′-dimethylcyclohexane-1,2-diamine | 0.50 mmol, 0.08 mL | CN[C@H]1[C@@H](CCCC1)NC | C8H18N2
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
catalyst | copper(I) iodide | 0.50 mmol, 0.10 g | [Cu]I
product | ethyl 4-methyl-2-(2-oxo-3-phenylimidazolidin-1-yl)thiazole-5-carboxylate | 89% yield | CC=1N=C(SC1C(=O)OCC)N1C(N(CC1)C1=CC=CC=C1)=O | C16H17N3O3S
